*****< 入力換算雑音算出用テストベンチ >*****
.lib IRN

*****< Parameters >*****
.param half='psvoltage/2'
.param valr1=10k
.param valr2=10k

*****< Power_Supply >*****
VDD	vdd gnd	'half'
VSS	gnd vss	'half'

******< Input >******
VIN	inp gnd dc 0
R1 inm gnd nores valr1
R2 out inm nores valr2

*****< Circuit Topology >*****
Xirn inm inp out vdd vss opamp
*** NAME INM INP OUT VDD VSS

******< Control >******
.AC DEC 100 0.1 1Meg
.NOISE V(out) VIN 10
.MODEL nores R noise=0
.TEMP 25

.endl